US08802711B2
3-(pyridin-2-yl)cyclopentanone
A solution of thiophene (0.50 g, 6.0 mmol), diethyl ether (50 mL), and n-BuLi (2.5 M, 2.20 mL, 5.50 mmol) was stirred at room temperature for 1 hour. The reaction mixture was cooled to <5° C. and copper iodide (1.05 g, 5.50 mmol) was added. The reaction mixture was warmed to room temperature and stirred for 1 hour. In a separate flask, a solution of 2-bromopyridine (0.87 g, 5.50 mmol) in diethyl ether (50 mL) was cooled to <−70° C. and n-BuLi (2.5 M, 2.20 mL, 5.50 mmol) was added. The reaction mixture was warmed to room temperature and stirred for 10 minutes. The 2-lithiopyridine reagent was added to the first reaction mixture via cannula and stirred at room temperature for 1 hour. To the reaction mixture was added 2-cyclopenten-1-one (0.45 g, 5.50 mmol) in diethyl ether (10 mL) and the reaction mixture was stirred for 1 hour. The reaction was poured into EtOAc (150 mL) and washed with brine (100 mL), dried (Na2SO4), filtered, and concentrated. The material was purified by flash column chromatography (20% EtOAc/hexanes), to provide the title compound (0.38 g, 43%). 1H NMR (CD3OD, 300 MHz) δ 2.10-2.19 (m, 1H), 2.13-2.66 (m, 5H), 3.56-3.68 (m, 1H), 7.27 (ddd, J=1.0, 5.1, 7.5 Hz, 1H), 7.38 (dd, J=1.02, 7.80 Hz, 1H), 7.76 (ddd, J=2.0, 7.80, 7.80 Hz, 1H), 8.47-8.50 (m, 1H); MS (DCI) m/z 162 (M+H)+.

reactant | thiophene | 6.0 mmol, 0.50 g | S1C=CC=C1 | C4H4S
reactant | n-BuLi | 5.50 mmol, 2.5 M, 2.20 mL | [Li]CCCC
reactant | 2-bromopyridine | 5.50 mmol, 0.87 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-BuLi | 5.50 mmol, 2.5 M, 2.20 mL | [Li]CCCC
reactant | 2-lithiopyridine | [Li]C1=NC=CC=C1
reactant | 2-cyclopenten-1-one | 5.50 mmol, 0.45 g | C1(C=CCC1)=O | C5H6O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
catalyst | copper iodide | 5.50 mmol, 1.05 g | [Cu](I)I
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 3-(pyridin-2-yl)cyclopentanone | 0.38 g, 43% | N1=C(C=CC=C1)C1CC(CC1)=O | C10H11NO
